US07417247B2
1,2,3,4-Tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene
A suspension of 54.15 g (0.1 mol) of 5-bromo-1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene in 300 ml of ether was added in portions to a suspension of 15.18 g (0.4 mol) of Li[AlH4] in 200 ml of ether with stirring. The slightly yellow-grey suspension formed was refluxed for 2 hours to complete the reduction. After cooling to room temperature, excess Li[AlH4] was hydrolyzed first with ice water (caution: vigorous H2 evolution) and then with dilute hydrochloric acid. All volatile organic components were then distilled off from the reaction mixture using a rotary evaporator. The slightly yellow crude product was filtered off with suction and washed several times with water. For further purification, it was dried azeotropically with toluene, filtered and recrystallized. (Yield: 36.5 g (79%); elemental analysis: found: C, 90.04%, H, 5.56%. calculated: C, 90.88%, H, 5.67%).

reactant | 5-bromo-1,2,3,4-tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene | 0.1 mol, 54.15 g | BrC1(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C35H25BrO
reactant | Li[AlH4] | 0.4 mol, 15.18 g | [Li+].[AlH4-]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1,2,3,4-Tetraphenyl-5-p-hydroxyphenylcyclopenta-1,3-diene | C1(=CC=CC=C1)C1=C(C(=C(C1C1=CC=C(C=C1)O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H26O
